US06300500B1
Preparation of N-[1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-(2,6-diisopropylphenyl)urea:
To a solution of 3-amino-1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridine (1.70 g, 5.26 mmol) in tetrahydrofuran (14 ml) was added phenyl chlorocarbonate (1.32 ml, 10.5 ml), and the mixture was stirred at 40-50° C. for 3 hours. The mixture was allowed to cool, and thereto was added water, and the mixture was extracted with water. The extract was washed with a 5% aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The resulting residue was dissolved in dimethylformamide (10 ml), and thereto was added a solution of 2,6-diisopropylaniline (1.24 g, 6.31 mmol) and dimethylformamide (5 ml) and 4-dimethylaminopyridine (0.62 g, 5.26 mmol), and the mixture was stirred at room temperature for one hour. To the reaction solution was added water, and the mixture was extracted with ethyl acetate. The extract was washed successively with a 5% aqueous sodium hydrogen carbonate solution and a 5% aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was crystallized from ethyl acetate to give the title compound (1.75 g, 3.32 mmol) as colorless crystals.

reactant | 3-amino-1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridine | 5.26 mmol, 1.70 g | NC=1C(N(C2=NC=CC=C2C1C1=CC(=CC=C1)OC)CCCC)=O | C19H21N3O2
reactant | phenyl chlorocarbonate | 1.32 ml | C(OC1=CC=CC=C1)(=O)Cl | C7H5ClO2
reactant | 2,6-diisopropylaniline | 6.31 mmol, 1.24 g | C(C)(C)C1=C(N)C(=CC=C1)C(C)C | C12H19N
solvent | tetrahydrofuran | 14 ml | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 5.26 mmol, 0.62 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | O | H2O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | N-[1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-(2,6-diisopropylphenyl)urea | 3.32 mmol, 1.75 g | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OC)NC(=O)NC1=C(C=CC=C1C(C)C)C(C)C)=O | C32H38N4O3
